### PR TITLE
fix(ErdosProblems/258): indexing

### PR DESCRIPTION
**Pull request by mo271**

### CODE REVIEW

File: FormalConjectures/ErdosProblems/258.lean [hunk 1]
```diff
@@ -31,7 +31,7 @@ $\sum_n \frac{d(n)}{(a_1 ... a_n)}$ irrational, where $d(n)$ is the number of di
 @[category research open, AMS 11]
 theorem erdos_258 : answer(sorry) ↔ ∀ (a : ℕ → ℕ), (∀ n, a n ≠ 0) →
     Filter.Tendsto a Filter.atTop Filter.atTop →
-    Irrational (∑' (n : ℕ), ((n + 1).divisors.card / ∏ i ∈ Finset.Icc 1 n, a i)) := by
+    Irrational (∑' (n : ℕ), ((n + 1).divisors.card / ∏ i ∈ Finset.Icc 1 (n + 1), a i)) := by
```
Comment (Paul-Lez) [inline FormalConjectures/ErdosProblems/258.lean]:
```suggestion
    Irrational (∑' n, ((n + 1).divisors.card / ∏ i ∈ Finset.Icc 1 (n + 1), a i)) := by
```

File: FormalConjectures/ErdosProblems/258.lean [hunk 2]
```diff
@@ -43,9 +43,9 @@ Solution: True (proved by Erdős and Straus, see Erdős Problems website).
 -/
 @[category research solved, AMS 11]
 theorem erdos_258.variants.Monotone : answer(True) ↔
-    ∀ (a : ℕ → ℤ), (∀ n, a n ≠ 0) → Monotone a →
+    ∀ (a : ℕ → ℕ), (∀ n, a n ≠ 0) → Monotone a →
     Filter.Tendsto a Filter.atTop Filter.atTop →
-    Irrational (∑' (n : ℕ), ((n + 1).divisors.card / ∏ i ∈ Finset.Icc 1 n, a i)) := by
+    Irrational (∑' (n : ℕ), ((n + 1).divisors.card / ∏ i ∈ Finset.Icc 1 (n +1), a i)) := by
```
Comment (seewoo5) [inline FormalConjectures/ErdosProblems/258.lean]:
```suggestion
    Irrational (∑' (n : ℕ), ((n + 1).divisors.card / ∏ i ∈ Finset.Icc 1 (n + 1), a i)) := by
```

File: FormalConjectures/ErdosProblems/258.lean [hunk 3]
```diff
@@ -43,9 +43,9 @@ Solution: True (proved by Erdős and Straus, see Erdős Problems website).
 -/
 @[category research solved, AMS 11]
 theorem erdos_258.variants.Monotone : answer(True) ↔
-    ∀ (a : ℕ → ℤ), (∀ n, a n ≠ 0) → Monotone a →
+    ∀ (a : ℕ → ℕ), (∀ n, a n ≠ 0) → Monotone a →
```
Comment (seewoo5) [inline FormalConjectures/ErdosProblems/258.lean]: I checked Lemma 2.1 of [ErSt71], and it seems that there's an additional assumption of $a_n \ge 2$ (which is also missing in Erdos website). Could you double check?

Comment (mo271) [reply FormalConjectures/ErdosProblems/258.lean]: done

File: FormalConjectures/ErdosProblems/258.lean [hunk 4]
```diff
@@ -25,27 +25,27 @@ import FormalConjectures.Util.ProblemImports
 namespace Erdos258
 
 /--
-Let $a_n \to \infty$ be a sequence of non-zero natural numbers. Is
-$\sum_n \frac{d(n)}{(a_1 ... a_n)}$ irrational, where $d(n)$ is the number of divisors of $n$?
+Let $a_1 \leq a_2 \leq \cdots$ be integers with $a_i \geq 2$ and $a_n \to \infty$. Is
+$\sum_n \frac{d(n)}{a_1 \cdots a_n}$ irrational, where $d(n)$ is the number of divisors of $n$?
 -/
 @[category research open, AMS 11]
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/258.lean]: This has since been proved positively, see [website](https://www.erdosproblems.com/forum/thread/258)

File: FormalConjectures/ErdosProblems/258.lean [hunk 5]
```diff
@@ -25,27 +25,27 @@ import FormalConjectures.Util.ProblemImports
 namespace Erdos258
 
 /--
-Let $a_n \to \infty$ be a sequence of non-zero natural numbers. Is
-$\sum_n \frac{d(n)}{(a_1 ... a_n)}$ irrational, where $d(n)$ is the number of divisors of $n$?
+Let $a_1 \leq a_2 \leq \cdots$ be integers with $a_i \geq 2$ and $a_n \to \infty$. Is
+$\sum_n \frac{d(n)}{a_1 \cdots a_n}$ irrational, where $d(n)$ is the number of divisors of $n$?
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/258.lean]: Monotonicity is not assumed in the main statement right? Otherwise this is the previously solved variant below.

File: FormalConjectures/ErdosProblems/258.lean [hunk 6]
```diff
@@ -56,7 +56,7 @@ Solution: True (proved by Erdős, see Erdős Problems website)
 -/
 @[category research solved, AMS 11]
 theorem erdos_258.variants.Constant : answer(True) ↔ ∀ t ≥ (2 : ℕ),
```
Comment (smmercuri) [inline FormalConjectures/ErdosProblems/258.lean]: nit: naming 
```suggestion
theorem erdos_258.variants.constant : answer(True) ↔ ∀ t ≥ (2 : ℕ),
```

File: FormalConjectures/ErdosProblems/258.lean (hunk 4 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/258.lean]: done

File: FormalConjectures/ErdosProblems/258.lean (hunk 5 above)
Comment (mo271) [reply FormalConjectures/ErdosProblems/258.lean]: yes

**Review by smmercuri — APPROVED** [review]
